US08304419B2
Step F: N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-5-{[2-(methylthio)ethyl]oxy}-1H-indole-2-carboxamide
HATU (0.055 g, 0.145 mmol) was added as a solid to a solution of 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-chlorobenzonitrile (0.045 g, 0.145 mmol), 5-{[2-(methylthio)ethyl]oxy}-1H-indole-2-carboxylic acid (0.036 g, 0.145 mmol) and DIPEA (0.025 mL, 0.145 mmol) in DMF (1 mL). After 2 hours the reaction mixture was poured into EtOAc and water and the layers were separated. The organic layer was dried over MgSO4, filtered and the solvent evaporated. The residue was dissolved in MeOH and purification was accomplished by reverse-phase HPLC (water/acetonitrile with 0.1% TFA) to afford the title compound (0.041 g, 52%) as a white solid. 1H NMR (400 MHz, Acetone-d6) δ ppm 10.64 (br. s., 1H), 8.28 (br. s., 1H), 7.61 (s, 1H), 7.33-7.51 (m, 5H), 7.00-7.13 (m, 2H), 6.89 (dd, 1H), 4.66 (d, 2 H), 4.15 (t, 2H), 2.85 (t, 2H), 2.17 (s, 3H). LC-MS (ES+) m/z 544.4 [M+H].

reactant | HATU | 0.145 mmol, 0.055 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-chlorobenzonitrile | 0.145 mmol, 0.045 g | NCC=1C(=C(C(=CC1)Cl)OC=1C=C(C#N)C=C(C1)Cl)F | C14H9Cl2FN2O
reactant | 5-{[2-(methylthio)ethyl]oxy}-1H-indole-2-carboxylic acid | 0.145 mmol, 0.036 g | CSCCOC=1C=C2C=C(NC2=CC1)C(=O)O | C12H13NO3S
reactant | DIPEA | 0.145 mmol, 0.025 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-5-{[2-(methylthio)ethyl]oxy}-1H-indole-2-carboxamide | 0.041 g, 52% | ClC1=C(C(=C(C=C1)CNC(=O)C=1NC2=CC=C(C=C2C1)OCCSC)F)OC1=CC(=CC(=C1)C#N)Cl | C26H20Cl2FN3O3S
